US07884207B2
To a solution of tert-butyl 4-{[(3-aminoquinolin-4-yl)amino]methyl}-4-hydroxypiperidine-1-carboxylate (50.3 mmol, prepared as described above) in dichloromethane (330 mL) at 0° C. was added triethylamine (8 mL, 57.4 mmol) followed by dropwise addition of ethoxyacetyl chloride (88%, 6.59 g, 50.3 mmol). After 3 h at rt, more triethylamine (4 mL) and acid chloride (1.70 g) were added. The solution was stirred 1 h, then concentrated in vacuo to a foam and ethanol (400 mL) and triethylamine (24 mL) were added. The resulting solution was heated at reflux for 20 h and then concentrated in vacuo. The residue was dissolved in dichloromethane (600 mL) and washed with water (2×200 mL) and brine (2×250 mL). The organic layer was dried twice over MgSO4, filtered, and concentrated to an oil. The oil was purified twice by flash chromatography (silica gel, gradient elution with 3-5% methanol/dichloromethane) to provide tert-butyl 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-4-hydroxypiperidine-1-carboxylate as a yellow foam containing dichloromethane (13.13 g). Based on 1H NMR integration, the calculated amount of product was 12.59 g (57%).

reactant | tert-butyl 4-{[(3-aminoquinolin-4-yl)amino]methyl}-4-hydroxypiperidine-1-carboxylate | 50.3 mmol | NC=1C=NC2=CC=CC=C2C1NCC1(CCN(CC1)C(=O)OC(C)(C)C)O | C20H28N4O3
reactant | triethylamine | 57.4 mmol, 8 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 50.3 mmol, 6.59 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 330 mL | ClCCl | CH2Cl2
product | tert-butyl 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-4-hydroxypiperidine-1-carboxylate | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCN(CC1)C(=O)OC(C)(C)C)O | C24H32N4O4
